US07037935B2
In an analogous manner to that described in Example 36b), the hydrogenation of (E)-1-chloro-3-[2-(4-nitrophenyl)ethenyl]-benzene using platinum on carbon (5%) as the catalyst but with a reaction time of 18 hours and simultaneous reduction of the double bond yields the 4-[2-(3-chloro-phenyl)-ethyl]-phenylamine as a dark brown oil; MS: m/e=232 (M+H)+.

reactant | (E)-1-chloro-3-[2-(4-nitrophenyl)ethenyl]-benzene | ClC1=CC(=CC=C1)\C=C\C1=CC=C(C=C1)[N+](=O)[O-] | C14H10ClNO2
catalyst | platinum on carbon | [Pt] | Pt
product | 4-[2-(3-chloro-phenyl)-ethyl]-phenylamine | ClC=1C=C(C=CC1)CCC1=CC=C(C=C1)N | C14H14ClN
